US07632838B2
3,5-dichloro-4-{4-[(3,4-dichlorophenyl)sulfonyl]piperidin-1-yl}pyridine
Using the procedure from Example 7A, Step 7E, 4-[(3,4-dichlorophenyl)sulfonyl]piperidine (150 mg, 0.51 mmol) was reacted with 3,4,5-trichloropyridine (224 mg, 1.22 mmol) to afford the title compound (66 mg), a white solid, in 55% yield.

reactant | 4-[(3,4-dichlorophenyl)sulfonyl]piperidine | 0.51 mmol, 150 mg | ClC=1C=C(C=CC1Cl)S(=O)(=O)C1CCNCC1 | C11H13Cl2NO2S
reactant | 3,4,5-trichloropyridine | 1.22 mmol, 224 mg | ClC=1C=NC=C(C1Cl)Cl | C5H2Cl3N
product | 3,5-dichloro-4-{4-[(3,4-dichlorophenyl)sulfonyl]piperidin-1-yl}pyridine | 66 mg, 55% yield | ClC=1C=NC=C(C1N1CCC(CC1)S(=O)(=O)C1=CC(=C(C=C1)Cl)Cl)Cl | C16H14Cl4N2O2S
